US04151302
3.44 g. of 4-acetyl-2',4'-dibromobiphenyl and 1.5 g. of ethyl bromoacetate are added to a mixture of 6.5 g. of granulated zinc, previously washed with dilute hydrochloric acid, water and acetone and dried, and 0.2 g. of iodine in 70 ml. of benzene and 70 ml. of diethyl ether. The mixture is heated under reflux for 4 hours with occasional shaking. 5 g. of zinc and a trace of iodine are added after 1, 2 and 3 hours, respectively, and 1.5 g. of ethyl bromoacetate added after 2 hours. After cooling, acetic acid is added to decompose the resulting alcoholate and methanol is added to bring the product into solution. The mixture is poured into water and the organic phase is separated off and worked up to give 3-(2',4'-dibromo-4-biphenylyl)-3-hydroxybutyric acid ethyl ester.

reactant | 4-acetyl-2',4'-dibromobiphenyl | C(C)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)Br)Br | C14H10Br2O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 3-(2',4'-dibromo-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)Br)Br)=O | C18H18Br2O3
